US06680286B1
Among these preparation methods, preferred are those by anion exchange with a quaternary ammonium carbonate. A specific example for preparation of a quaternary ammonium salts of a carboxyl-containing polymer, in the case of a trimethyloctylammonium salt of polyacrylic acid, is as follows: Into a pressure vessel, are charged dimethyloctylamine (1 mole) and dimethyl carbonate (1 mole or more) together with methanol, and reacted at an elevated temperature (at about 120° C.) under pressure (about 5 kg/cm2) to obtain a solution in methanol of trimethyloctylammonium carbonate. Then, the solution is added at a temperature of 80-90° C. gradually to an aqueous solution of polyacrylic acid, whereby carbon dioxide is simultaneously generated vigorously. Generated carbon dioxide and methanol are distilled off to obtain an aqueous solution of trimethyl-octylammonium salt of polyacrylic acid.

reactant | trimethyloctylammonium | C[N+](CCCCCCCC)(C)C
reactant | dimethyloctylamine | 1 mole | CN(CCCCCCCC)C | C10H23N
reactant | dimethyl carbonate | 1 mole or more | C(OC)(OC)=O | C3H6O3
solvent | methanol | CO | CH4O
product | trimethyloctylammonium carbonate | C([O-])([O-])=O.C[N+](CCCCCCCC)(C)C.C[N+](C)(C)CCCCCCCC | InChI=1S/2C11H26N.CH2O3/c2*1-5-6-7-8-9-10-11-12(2,3)4;2-1(3)4/h2*5-11H2,1-4H3;(H2,2,3,4)/q2*+1;/p-2
